US04898901
N-Decyl-alpha-nonyl nitrone
To a solution of 29.8 grams of didecylamine in 120 ml of n-propanol is added sequentially 1.6 grams of sodium tungstate dihydrate and 14.3 grams of a 50% aqueous hydrogen peroxide solution at 5°-10° C. The reaction mixture is allowed to warm up to 40° C. and is maintained at that temperature for 20 hours. An additional 7.2 grams of 50% aqueous hydrogen peroxide solution is added to the solution at 40° C. After further stirring for another day, the reaction mixture is concentrated under reduced pressure. The residue is partitioned between chloroform and water. The combined organic extracts are washed with water and then dried over anhydrous sodium sulfate. Removal of the chloroform solvent leaves a crude product which is purified by recrystallization from heptane to afford the above-named compound as a white solid melting at 63°-65° C. in a yield of 9.8 grams.

reactant | didecylamine | 29.8 grams | C(CCCCCCCCC)NCCCCCCCCCC | C20H43N
reactant | hydrogen peroxide | OO | H2O2
reactant | hydrogen peroxide | 7.2 grams | OO | H2O2
solvent | n-propanol | 120 ml | C(CC)O | C3H8O
catalyst | sodium tungstate dihydrate | 1.6 grams | O.O.[O-][W](=O)(=O)[O-].[Na+].[Na+]
product | N-Decyl-alpha-nonyl nitrone | C(CCCCCCCCC)[N+](=CCCCCCCCCC)[O-] | C20H41NO
